US03987047
7-Hydroxy-1,2,4,5-Tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 7-hydroxy-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 63, and subsequent hydrolysis of the intermediate 7-(ethoxy-carbonyloxy)-1,2,4,5 -tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester with dilute potassium hydroxide at 30° C.

reactant | 7-hydroxy-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | OC1=CC=CC=2C(=C3C(=NC12)CCNCC3)C | C14H16N2O
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | 7-(ethoxy-carbonyloxy)-1,2,4,5 -tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC2=NC=3C(=CC=CC3C(=C2CC1)C)OC(=O)OCC | C20H24N2O5
reactant | potassium hydroxide | [OH-].[K+]
product | 7-Hydroxy-1,2,4,5-Tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 22% | Cl.C(C)OC(=O)N1CCC2=NC=3C(=CC=CC3C(=C2CC1)C)O | InChI=1S/C17H20N2O3.ClH/c1-3-22-17(21)19-9-7-12-11(2)13-5-4-6-15(20)16(13)18-14(12)8-10-19;/h4-6,20H,3,7-10H2,1-2H3;1H
